US05506219
A. 3-(4-Fluorophenyl)-1-(2-thienyl)-2-propen-1-one
A solution of sodium ethoxide (21% by weight in EtOH, 0.68 gm, 10 mmol) was added to a solution of 2-acetylthiophene (12.60 gm, 100 mmol, from Aldrich) and 4-fluorobenzaldehyde (12.41 gm, 100 mmol, from Aldrich) in EtOH (50 ml) and the mixture stirred under argon for 15 minutes. More EtOH (25 ml) was then added to make a slurry of the reaction mixture, which had partially solidified. Acetic acid (0.60 gm, 11 mmol) was added and a yellow solid filtered out of solution. The solid was recrystallized from EtOAc and hexane to afford the title compound as long, pale yellow needles (17.679 gm, 71%).

reactant | sodium ethoxide | 10 mmol, 0.68 gm | [O-]CC.[Na+]
reactant | 2-acetylthiophene | 100 mmol, 12.60 gm | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | 4-fluorobenzaldehyde | 100 mmol, 12.41 gm | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | Acetic acid | 11 mmol, 0.60 gm | C(C)(=O)O | C2H4O2
solvent | EtOH | 50 ml | CCO | C2H6O
solvent | EtOH | 25 ml | CCO | C2H6O
product | 3-(4-Fluorophenyl)-1-(2-thienyl)-2-propen-1-one | FC1=CC=C(C=C1)C=CC(=O)C=1SC=CC1 | C13H9FOS
